US07786132B2
4-(3-Bromobenzo[b]thiophen-2-yl)-2-(methylsulfonyl)pyrimidine
Bromine (0.48 g, 3.02 mmol)was slowly added at rt to a mixture of 4-(benzo[b]thiophen-2-yl)-2-(methylsulfonyl)pyrimidine (0.73 g, 2.52 mmol) in acetic acid (20 mL). The resulting mixture was stirred at rt for 15 h and then heated at 60° C. for 5 h. After cooling to rt, acetic acid was removed in vacuo. 100 mL of saturated sodium bicarbonate was added and the mixture was extracted with dichloromethane 3×100 mL). ). The combined organic layer was washed with brine (200 mL), dried over anhydrous sodium sulfate and filtered. The solvent was evaporated in vacuo and the solid treated with 20 mL of methanol, filtered and dried to give the title compound (0.75 g, 80%). MS (M+H)+ 369/371.

reactant | Bromine | 3.02 mmol, 0.48 g | BrBr | Br2
reactant | 4-(benzo[b]thiophen-2-yl)-2-(methylsulfonyl)pyrimidine | 2.52 mmol, 0.73 g | S1C2=C(C=C1C1=NC(=NC=C1)S(=O)(=O)C)C=CC=C2 | C13H10N2O2S2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-(3-Bromobenzo[b]thiophen-2-yl)-2-(methylsulfonyl)pyrimidine | 0.75 g, 80% | BrC=1C2=C(SC1C1=NC(=NC=C1)S(=O)(=O)C)C=CC=C2 | C13H9BrN2O2S2
